US06608072B1
b) 5,6Diamino-2-(4-ethoxycarbonyl-1-piperazinyl)pyridine
5-Nitro-6-amino-2-(4-ethoxycarbonyl-1-piperazinyl)pyridine (4.5 g 15.2 mmol) in EtOH (200 ml) is hydrogenated at 1 atm over 10% Pd/C (1.5 g), filtered after hydrogen uptake was complete (2.5 h), combined with 4-fluorobenzoic acid (2.13 g 15.2 mmol) in EtOH (50 ml), evaporated to dryness and used without further purification in the following step.

reactant | 5-Nitro-6-amino-2-(4-ethoxycarbonyl-1-piperazinyl)pyridine | 15.2 mmol, 4.5 g | [N+](=O)([O-])C=1C=CC(=NC1N)N1CCN(CC1)C(=O)OCC | C12H17N5O4
reactant | 4-fluorobenzoic acid | 15.2 mmol, 2.13 g | FC1=CC=C(C(=O)O)C=C1 | C7H5FO2
solvent | EtOH | 200 ml | CCO | C2H6O
solvent | EtOH | 50 ml | CCO | C2H6O
catalyst | Pd/C | 1.5 g | [Pd] | Pd
product | 5,6Diamino-2-(4-ethoxycarbonyl-1-piperazinyl)pyridine | NC=1C=CC(=NC1N)N1CCN(CC1)C(=O)OCC | C12H19N5O2
